US07795282B2
Step E: Preparation of 2-(2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine.
To a solution of 2-(2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine (0.050 g, 0.100 mmol) in 1 mL DCE was added formaldehyde (0.033 g, 37 wt % in water, 0.401 mmol) followed by sodium triacetoxyborohydride (0.023 g, 0.110 mmol). The resulting suspension was stirred vigorously at room temperature overnight then was treated with saturated Na2CO3 solution (10 mL) and stirred for 10 minutes. The mixture was extracted with EtOAc (3×10 mL) and the combined organic phases were washed with brine (10 mL), dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography (0-3% MeOH/DCM) to afford the desired product as a yellow foam (0.046 g, 89%).

reactant | 2-(2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine | 0.100 mmol, 0.050 g | N(=[N+]=[N-])CCCC1(SC(=NN1C=1SC=2CNCCC2N1)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C23H21F2N7S2
reactant | formaldehyde | 0.401 mmol, 0.033 g | C=O | CH2O
reactant | sodium triacetoxyborohydride | 0.110 mmol, 0.023 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Na2CO3 | 10 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DCE | 1 mL | ClCCCl | C2H4Cl2
product | 2-(2-(3-azidopropyl)-5-(2,5-difluorophenyl)-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine | 0.046 g, 89% | N(=[N+]=[N-])CCCC1(SC(=NN1C=1SC=2CN(CCC2N1)C)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C24H23F2N7S2
